US09035059B2
N-[4-(3-Cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
An aqueous solution (10 mL) of ethanol (20 mL) and potassium hydroxide (730 mg, 12.86 mmol) was added to a solution of N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (4.07 g, 6.43 mmol) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 15 hr. The mixture was diluted with water and extracted with chloroform. The organic layer was concentrated under reduced pressure, a mixed solvent of hexane and ethyl acetate (6:1) was added to the residue, and a precipitated solid was collected by filtration to afford the title compound as a colorless powder (3.11 g).

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | potassium hydroxide | 12.86 mmol, 730 mg | [OH-].[K+]
reactant | N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C1(CCCC1)CCCC1=CC(=C(C=C1)N(S(=O)(=O)C=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O)CC1=CC=C(C=C1)OC)F | C33H36F4N2O4S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[4-(3-Cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 3.11 g | C1(CCCC1)CCCC1=CC(=C(C=C1)N(S(=O)(=O)C=1C=C2CCNCC2=CC1)CC1=CC=C(C=C1)OC)F | C31H37FN2O3S
